US04322417
To a solution of 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino[2,3,4-ij]-quinolin-5-one in dry pyridine can be added acetyl chloride. The solution is heated at reflux, and when the reaction is complete, the solution can be poured into cold 1 N hydrochloric acid solution, extracted, isolated and purified to give 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one acetate.

reactant | 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino[2,3,4-ij]-quinolin-5-one | CC1=CC(N2C3=C(C=C(C=C13)C(C(F)(F)F)(C(F)(F)F)O)SCC2)=O | C15H11F6NO2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one acetate | C(C)(=O)O.CC1=CC(N2C3=C(C=C(C=C13)C(C(F)(F)F)(C(F)(F)F)O)SCC2)=O | InChI=1S/C15H11F6NO2S.C2H4O2/c1-7-4-11(23)22-2-3-25-10-6-8(5-9(7)12(10)22)13(24,14(16,17)18)15(19,20)21;1-2(3)4/h4-6,24H,2-3H2,1H3;1H3,(H,3,4)
